US08629157B2
Step 1: Synthesis of 4,4-dimethyl-3-oxo-pentanenitrile
To a refluxed solution of sodium hydride (33.18 g, 553.03 mmol) in 275 mL of cyclohexane is added a mixture of 2,2-dimethyl-propionic acid ethyl ester (30 g, 230.43 mmol) in 79 mL acetonitrile (553.03 mmol) in 25 mL of cyclohexane. The mixture is maintained at 80° C. overnight. The mixture is cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined organics are washed with water, dried over sodium sulfate, filtered and concentrated to afford title compound which was used crude in subsequent reaction. ESI m/z 124=MH−

reactant | sodium hydride | 553.03 mmol, 33.18 g | [H-].[Na+]
reactant | 2,2-dimethyl-propionic acid ethyl ester | 230.43 mmol, 30 g | C(C)OC(C(C)(C)C)=O | C7H14O2
reactant | acetonitrile | 553.03 mmol, 79 mL | C(C)#N | C2H3N
solvent | cyclohexane | 275 mL | C1CCCCC1 | C6H12
solvent | cyclohexane | 25 mL | C1CCCCC1 | C6H12
solvent | water | O | H2O
product | 4,4-dimethyl-3-oxo-pentanenitrile | CC(C(CC#N)=O)(C)C | C7H11NO
